* Johnson Figure 4.8, a more complex circuit
V1 1 0 1
V2 0 5 0
I1 4 0 9
H1 2 3 V2 3
G1 0 3 1 4 2
R1 1 4 2
*R2 1 2 1
C1 1 2 1
*R3 4 3 1
L1 4 3 1
R4 2 5 2
