* Two amplifier RIAA Phone Preamp
V1 1 0 0.018
C1 2 4 0.039e-6
C2 3 0 200e-6
R21 2 3 499
R3 5 6 2.3e3
R1 2 4 80.6e3
R2 4 5 8.45e3
Cs 1 0 100e-12
R20 1 0 47e3
O2 1 2 5
O3 7 8 9
C4 6 0 0.033e-6
C5 7 6 2e-6
R6 7 0 54.9e3
R4 8 0 2e3
R5 9 8 4.3e3
R22 9 0 10e3
